US06706921B2
A solution of 100.0 g of 4-chloro-5-methanesulfonyl-2-methylbenzoic acid and 68.1 g of trimethyl orthoacetate in 322 ml of NMP was refluxed until the acid had reacted completely. After the excess orthoester had been distilled off, 96.5 g of sodium methanesulfinate were added, and the mixture was stirred at 90° C. for 18 h. Conventional work-up gave methyl 4,5-bis-methanesulfonyl-2-methylbenzoate.

reactant | 4-chloro-5-methanesulfonyl-2-methylbenzoic acid | 100.0 g | ClC1=CC(=C(C(=O)O)C=C1S(=O)(=O)C)C | C9H9ClO4S
reactant | trimethyl orthoacetate | 68.1 g | C(C)(OC)(OC)OC | C5H12O3
solvent | NMP | 322 ml | CN1CCCC1=O | C5H9NO
product | methyl 4,5-bis-methanesulfonyl-2-methylbenzoate | CS(=O)(=O)C1=CC(=C(C(=O)OC)C=C1S(=O)(=O)C)C | C11H14O6S2
